US06858651B2
The following reaction was performed in analogy to the reaction described in: Marshall, James A.; Bartley, Gary S.; Wallace, Eli M. Total Synthesis of the Pseudopterane (−)-Kallolide B, the Enantiomer of Natural (+)-Kallolide B. J. Org. Chem. (1996), 61(17), 5729-5735 and Baker, Raymond; Boyes, Alastair L.; Swain, Christopher J. Synthesis of talaromycins A, B, C, and E. J. Chem. Soc., Perkin Trans. 1 (1990), (5), 1415-21.). A solution of 993 mg (2.5 mmol) of trans-[4-(2,2-Dibromo-vinyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester in 20 ml THF was treated at −78° C. with 3.28 ml (5.25 mmol) of BuLi (ca 1.6 M in hexane). After 2 h at this temperature 790 mg (25 mmol) of paraformaldehyde were added. The reaction mixture was warmed up to RT for 3 h and after 1 h at this temperature extracted with water/ether (3×). The organic phases were washed with aqueous 10% NaCl, dried over Na2SO4 and evaporated. Purification by flash-chromatography on silica gel (hexane/EtOAc 4:1) yielded 530 g (79%) of trans-[4-(3-Hydroxy-prop-1-ynyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester, MS: 268 (MH+).

reactant | (+)-Kallolide B | CC1=C2C[C@@H](CCC3=C[C@H]([C@H](C(=C1)O2)C(=C)C)OC3=O)C(=C)C | C20H24O3
reactant | trans-[4-(2,2-Dibromo-vinyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 2.5 mmol, 993 mg | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C=C(Br)Br)=O | C14H23Br2NO2
reactant | BuLi | 5.25 mmol, ca 1.6 M, 3.28 ml | [Li]CCCC
reactant | paraformaldehyde | 25 mmol, 790 mg | C=O | CH2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | trans-[4-(3-Hydroxy-prop-1-ynyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 530 g, 79% | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C#CCO)=O | C15H25NO3
